US05955464
A mixture of 4-chloro-6-(1,2,4-triazol-1-yl)quinazoline (0.54 g), 3-chloro-4-fluoroaniline (0.34 g) and isopropanol (25 ml) was stirred and heated to reflux for 2 hours. The mixture was cooled to ambient temperature, acetone (20 ml) was added and the mixture was filtered. The solid so obtained was washed with acetone and dried to give 4-(3-chloro-4-fluoroanilino)-6-(1,2,4-triazol-1-yl)quinazoline hydrochloride salt (0.61 g), m.p. >250° C.; NMR Spectrum: (CD3SOCD3) 7.49 (t, 1H), 7.8 (m, 1H), 8.03-8.08 (m, 2H), 8.33 (s, 1H), 8.52 (m, 1H), 8.93 (s, 1H), 9.62 (m, 2H);

reactant | 4-chloro-6-(1,2,4-triazol-1-yl)quinazoline | 0.54 g | ClC1=NC=NC2=CC=C(C=C12)N1N=CN=C1 | C10H6ClN5
reactant | 3-chloro-4-fluoroaniline | 0.34 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(3-chloro-4-fluoroanilino)-6-(1,2,4-triazol-1-yl)quinazoline hydrochloride salt | 0.61 g | Cl.ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)N2N=CN=C2)C=CC1F | InChI=1S/C16H10ClFN6.ClH/c17-13-5-10(1-3-14(13)18)23-16-12-6-11(24-9-19-7-22-24)2-4-15(12)20-8-21-16;/h1-9H,(H,20,21,23);1H
